data/my_data/train.txt
[C:24]([NH:25][CH:26]1[CH2:27][CH2:28][CH2:29][CH2:30][CH2:31]1)(=[N:32][CH:33]1[CH2:34][CH2:35][CH2:36][CH2:37][CH2:38]1)[O:39][C:40]([c:41]1[c:42]([CH3:43])[c:44]2[c:45]([o:46]1)[c:47]([Cl:48])[cH:49][cH:50][cH:51]2)=[O:52].[CH3:1][c:2]1[n:3][n:4]([CH2:5][c:6]2[cH:7][cH:8][c:9]([NH2:10])[cH:11][cH:12]2)[c:13]([CH3:14])[c:15]1[CH2:16][C:17](=[O:18])[O:19][C:20]([CH3:21])([CH3:22])[CH3:23]>>[CH3:1][c:2]1[n:3][n:4]([CH2:5][c:6]2[cH:7][cH:8][c:9]([NH2+:10][C:40]([O:39][C:24]([NH:25][CH:26]3[CH2:27][CH2:28][CH2:29][CH2:30][CH2:31]3)=[N:32][CH:33]3[CH2:34][CH2:35][CH2:36][CH2:37][CH2:38]3)([c:41]3[c:42]([CH3:43])[c:44]4[c:45]([o:46]3)[c:47]([Cl:48])[cH:49][cH:50][cH:51]4)[O-:52])[cH:11][cH:12]2)[c:13]([CH3:14])[c:15]1[CH2:16][C:17](=[O:18])[O:19][C:20]([CH3:21])([CH3:22])[CH3:23]
[CH3:1][O:2][C:3](=[O:4])[c:10]1[cH:11][cH:12][cH:13][c:14]([C:15]([F:16])([F:17])[F:18])[cH:19]1.[CH3:8][CH:7]([NH2:9])[CH2:6][NH2:5]>>[CH3:1][O:2][C:3]([O-:4])([NH2+:5][CH2:6][CH:7]([CH3:8])[NH2:9])[c:10]1[cH:11][cH:12][cH:13][c:14]([C:15]([F:16])([F:17])[F:18])[cH:19]1
[CH3:1][O:2][c:3]1[n:4][c:5]2[cH:6][cH:7][c:8]([CH:9]([OH+:10][Cr:11](=[O:12])([O-:31])([OH:14])[OH:13])[c:15]3[cH:16][n:17][c:18]([CH3:19])[n:20]3[CH3:21])[cH:22][c:23]2[c:24]([Cl:25])[c:26]1[CH2:27][CH:28]([CH3:30])[CH3:29]>>[CH3:1][O:2][c:3]1[n:4][c:5]2[cH:6][cH:7][c:8]([CH:9]([O:10][Cr:11](=[O:12])(=[O:13])[OH:14])[c:15]3[cH:16][n:17][c:18]([CH3:19])[n:20]3[CH3:21])[cH:22][c:23]2[c:24]([Cl:25])[c:26]1[CH2:27][CH:28]([CH3:29])[CH3:30].[OH2:31]
[CH3:1][c:2]1[cH:3][cH:4][cH:5][c:6]([CH3:7])[c:8]1[Br:9].[CH3:10][C:11]([CH3:12])([CH3:13])[CH2:14][P+:15]([Pd:16])([CH2:17][C:18]([CH3:19])([CH3:20])[CH3:21])[CH2:22][C:23]([CH3:24])([CH3:25])[CH3:26].CC(C)(C)[O-].CC(C)(C)c1ccccc1N.[Na+]>>[CH3:1][c:2]1[cH:3][cH:4][cH:5][c:6]([CH3:7])[c:8]1[Pd:16]([Br:9])[P+:15]([CH2:14][C:11]([CH3:10])([CH3:12])[CH3:13])([CH2:17][C:18]([CH3:19])([CH3:20])[CH3:21])[CH2:22][C:23]([CH3:24])([CH3:25])[CH3:26].CC(C)(C)[O-].CC(C)(C)c1ccccc1N.[Na+]
[CH3:23][c:24]1[cH:25][n:26]([C@H:27]2[CH2:28][C@H:29]([OH:30])[C@@H:31]([CH2:32][NH:33][P:2]([OH:1])([c:3]3[cH:4][cH:5][cH:6][cH:7][cH:8]3)([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)[c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[O:34]2)[c:35](=[O:36])[nH:37][c:38]1=[O:39].[N:21]#[N:22]>>[OH+:1]=[P:2]([c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1)([c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[N:21]#[N:22].[CH3:23][c:24]1[cH:25][n:26]([C@H:27]2[CH2:28][C@H:29]([OH:30])[C@@H:31]([CH2:32][NH-:33])[O:34]2)[c:35](=[O:36])[nH:37][c:38]1=[O:39]
[CH3:2][C+:3]([CH3:4])[CH3:5].[OH2:1].N#CCCc1cnc(N)cn1.O=C=O>>[CH3:2][C:3]([CH3:4])=[CH2:5].[OH3+:1].N#CCCc1cnc(N)cn1.O=C=O
[CH3:2][C:3](=[O:4])[C@H:5]1[CH2:6][O:7][CH2:8][C@@H:9]([c:10]2[cH:11][c:12]([F:13])[c:14]([F:15])[c:16]([F:17])[cH:18]2)[N:19]1[C:20](=[O:21])[O:22][CH2:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[BrH:1]>>[Br-:1].[CH3:2][C:3](=[O:4])[C@H:5]1[CH2:6][O:7][CH2:8][C@@H:9]([c:10]2[cH:11][c:12]([F:13])[c:14]([F:15])[c:16]([F:17])[cH:18]2)[N:19]1[C:20](=[OH+:21])[O:22][CH2:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1
[CH3:1][C:2]([O-:3])([OH:4])[O:18][c:17]1[cH:16][c:15]([O:14][CH2:13][c:12]2[cH:11][cH:10][cH:9][cH:8][c:7]2[C:6]#[N:5])[cH:33][c:20]([C:21](=[O:22])[NH:23][c:24]2[cH:25][cH:26][c:27]([N+:28](=[O:29])[OH:30])[cH:31][n:32]2)[cH:19]1.[OH-:34]>>[CH3:1][C:2](=[O:3])[OH:4].[N:5]#[C:6][c:7]1[cH:8][cH:9][cH:10][cH:11][c:12]1[CH2:13][O:14][c:15]1[cH:16][c:17]([O-:18])[cH:19][c:20]([C:21](=[O:22])[NH:23][c:24]2[cH:25][cH:26][c:27]([N+:28](=[O:29])[OH:30])[cH:31][n:32]2)[cH:33]1.[OH-:34]
[NH:1]=[C:2]([NH2:3])[NH:4][NH:5][CH:6]([c:7]1[cH:8][cH:9][c:10]([O:11][CH2:12][CH2:13][CH2:14][CH2:15][C:16]#[N:17])[c:18]([Cl:19])[cH:20]1)[OH2+:21].O>>[NH:1]=[C:2]([NH2:3])[NH:4][NH+:5]=[CH:6][c:7]1[cH:8][cH:9][c:10]([O:11][CH2:12][CH2:13][CH2:14][CH2:15][C:16]#[N:17])[c:18]([Cl:19])[cH:20]1.[OH2:21].O
[CH3:9][C:10]([CH3:11])([CH2:12][c:13]1[cH:14][nH:15][c:16]2[c:17]([O-:18])[cH:19][cH:20][cH:21][c:22]12)[NH:23][C:24](=[O:25])[O:26][C:27]([CH3:28])([CH3:29])[CH3:30].[HH:301].[Na+].[c:1]1([Cl:101])[c:2]([C:3]#[N:4])[cH:5][cH:6][cH:7][n:8]1>>[C:1]1([O:18][C:17]2=[C:16]3[NH:15][CH:14]=[C:13]([CH2:12][C:10]([CH3:9])([CH3:11])[NH:23][C:24](=[O:25])[O:26][C:27]([CH3:28])([CH3:29])[CH3:30])[C:22]3=[CH:21][CH:20]=[CH:19]2)([Cl:101])[C:2](=[C:3]=[N-:4])[CH:5]=[CH:6][CH:7]=[N:8]1.[HH:301].[Na+]
[CH3:1][CH2:2][S:3][CH2:4][C:5]([OH:6])([CH:7]([NH:8][c:9]1[cH:10][cH:11][cH:12][c:13]2[n:14][c:15]([CH3:16])[cH:17][cH:18][c:19]12)[c:20]1[cH:21][cH:22][c:23]([Cl:24])[c:25]([O:26][CH3:27])[c:31]1[F:32])[C:33]([F:35])([F:36])[F:34].[Br:29][B:28]([Br:30])[Br:37].[OH2:38]>>[CH3:1][CH2:2][S:3][CH2:4][C:5]([OH:6])([CH:7]([NH:8][c:9]1[cH:10][cH:11][cH:12][c:13]2[n:14][c:15]([CH3:16])[cH:17][cH:18][c:19]12)[c:20]1[cH:21][cH:22][c:23]([Cl:24])[c:25]([O+:26]([CH3:27])[B:28]([Br:29])[Br:30])[c:31]1[F:32])[C:33]([F:34])([F:35])[F:36].[Br-:37].[OH2:38]
